US04558143
To a mixture of 80 ml of water and 20 ml of 40% aqueous solution of chloroacetaldehyde was added 10.0 g (119 mmoles) of sodium hydrogencarbonate while cooling with ice. To the resulting reaction mixture was added dropwise 90 ml of aqueous solution containing 11.2 g (100 mmoles) of 1,3-cyclohexanedione while cooling with ice at a rate of 0.4 ml/minute. The reaction mixture was maintained at a pH of from 9 to 6 throughout the reaction. After completing the dropping, the reaction mixture was stirred at a room temperature overnight. To the resulting reaction mixture was added about 100 ml of ethyl acetate, and then the reaction mixture was acidified (pH<1) with sulfuric acid and stirred for about one hour. The ethyl acetate layer was separated, washed with an aqueous solution of potassium carbonate, and dried on magnesium sulfate. After distilling away the ethyl acetate, the obtained residue was distilled under a reduced pressure to give 10.3 g (yield: 76%) of 4-oxo-4,5,6,7 -tetrahydrobenzofuran being a colorless oily material (boiling point: 66° C./1 torr).

reactant | chloroacetaldehyde | ClCC=O | C2H3ClO
reactant | sodium hydrogencarbonate | 119 mmoles, 10.0 g | C(O)([O-])=O.[Na+]
reactant | 1,3-cyclohexanedione | 100 mmoles, 11.2 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | ethyl acetate | about 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 80 ml | O | H2O
product | 4-oxo-4,5,6,7 -tetrahydrobenzofuran | 10.3 g, yield: 76% | O=C1CCCC2=C1C=CO2 | C8H8O2
